US07135462B2
Step 3: Preparation of the titled product, 1-amino-spiro[2.3]hexane-1-carboxylic acid methyl ester hydrochloride salt.
To a mixture of spiro[2,3]hexane-1,1-dicarboxylic acid methyl ester (660 mg, 3.58 mmol) in 3 mL of anhydrous t-BuOH was added 1.08 g (3.92 mmol) of DPPA and 440 mg (4.35 mmol) of Et3N. The mixture was heated at reflux for 21 h and then partitioned between H2O and ether. The ether phase was dried over magnesium sulfate, filtered and concentrated in vacuo to yield an oil. To this oil was added 3 mL of a 4 M HCl/dioxane solution. This acidic solution was stirred at rt for 2 h and then concentrated in vacuo. The residue was triturated with ether to give 400 mg (58%) of desried prodict as a white solid. 1H NMR (300 MHz, d6-DMSO) δ 8.96 (br s, 3H), 3.71 (s, 3H), 2.41 (m, 1H), 2.12 (m, 4H), 1.93 (m, 1H), 1.56 (q, 2H, J=8 Hz). LC-MS of free amine: MS m/z 156 (M++1).

reactant | spiro[2,3]hexane-1,1-dicarboxylic acid methyl ester | 3.58 mmol, 660 mg | COC(=O)C1(CC12CCC2)C(=O)O | C9H12O4
reactant | DPPA | 3.92 mmol, 1.08 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 4.35 mmol, 440 mg | CCN(CC)CC | C6H15N
reactant | HCl dioxane | 4 M | Cl.O1CCOCC1
solvent | t-BuOH | 3 mL | CC(C)(C)O | C4H10O
product | 1-amino-spiro[2.3]hexane-1-carboxylic acid methyl ester hydrochloride salt | Cl.COC(=O)C1(CC12CCC2)N | InChI=1S/C8H13NO2.ClH/c1-11-6(10)8(9)5-7(8)3-2-4-7;/h2-5,9H2,1H3;1H
